US07528160B2
[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol (2.42 g, 9.41 mmol) and 100 mL dichloromethane are stirred at room temperature. Dess-Martin periodinane (8.0 g, 18.8 mmol) is added and the resulting mixture is stirred 4 hr at room temperature. The mixture is diluted with 100 mL saturated sodium hydrogen carbonate. The organic layer is separated, washed with 50 mL each of water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude product is purified by silica gel chromatography eluting with a mixture of 8:2 hexanes:ethyl acetate affording 4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carbaldehyde as a white solid, 2.12 g, 89%. MS (M++1) 256.

reactant | [4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol | 9.41 mmol, 2.42 g | CC=1N=C(OC1CO)C1=CC=C(C=C1)C(F)(F)F | C12H10F3NO2
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | Dess-Martin periodinane | 18.8 mmol, 8.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
product | 4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carbaldehyde | CC=1N=C(OC1C=O)C1=CC=C(C=C1)C(F)(F)F | C12H8F3NO2
